US07678818B2
To a solution of 2 g of methyl 3-amino-thiophene-2-carboxylic acid methyl ester (12.6 mmol) in DCM (20 ml) were slowly added 2.68 ml of trifluoroacetic acid anhydride (18.9 mmol) and 3.04 ml of pyridine (37.8 mmol) at −10° C. The reaction mixture was stirred for 1 h at RT, poured into a mixture of ice and 1N HCl and then extracted with DCM. The combined organic extracts were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The remaining residue was purified by column chromatography (silica gel; heptane 100% to heptane/EtOAc 9:1) to give 3.019 g (95%) of 3-(2,2,2-trifluoro-acetylamino)-thiophene-2-carboxylic acid methyl ester a white solid. MS (ISP) 252.1 (M−H)−.

reactant | methyl 3-amino-thiophene-2-carboxylic acid methyl ester | 12.6 mmol, 2 g | COC(=O)C=1SC=C(C1N)C | C7H9NO2S
reactant | trifluoroacetic acid anhydride | 18.9 mmol, 2.68 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 37.8 mmol, 3.04 ml | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1N | Cl | ClH
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(2,2,2-trifluoro-acetylamino)-thiophene-2-carboxylic acid methyl ester | 3.019 g, 95% | COC(=O)C=1SC=CC1NC(C(F)(F)F)=O | C8H6F3NO3S
